US08217177B2
6-((6-Phenylimidazo[1,2-b]pyridazin-3-yl)methyl)quinoline
A 10-20 mL microwave vial was charged with hydrazine hydrate (0.0312 ml, 0.642 mmol), (6-phenylimidazo[1,2-b]pyridazin-3-yl)(quinolin-6-yl)methanone (0.150 g, 0.428 mmol), KOH (0.0961 g, 1.71 mmol), and diethylene glycol (4.09 ml, 42.8 mmol), sealed, then placed in a Personal Chemistry microwave at 130° C. for 20 minutes after a 5 minute pre-stir. The mixture was diluted with water (75 mL), then extracted with DCM (2×75 mL). The combined organics were washed with brine (75 mL), then dried with MgSO4, filtered, and concentrated to give a brown solid, then purified by prep HPLC to give the product as the formic acid salt. MS (ESI pos. ion) m/z: 337 (MH+). Calc'd exact mass for C22H16N4: 336.

reactant | hydrazine hydrate | 0.642 mmol, 0.0312 ml | O.NN
reactant | (6-phenylimidazo[1,2-b]pyridazin-3-yl)(quinolin-6-yl)methanone | 0.428 mmol, 0.150 g | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=CN2)C(=O)C=2C=C1C=CC=NC1=CC2 | C22H14N4O
reactant | KOH | 1.71 mmol, 0.0961 g | [OH-].[K+]
reactant | diethylene glycol | 42.8 mmol, 4.09 ml | C(COCCO)O | C4H10O3
solvent | water | 75 mL | O | H2O
product | 6-((6-Phenylimidazo[1,2-b]pyridazin-3-yl)methyl)quinoline | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=CN2)CC=2C=C1C=CC=NC1=CC2 | C22H16N4
